US05192786
The procedures of Example 1 were followed using 4-hydroxy-3'-methoxystilbene (5.0 g, 22 mmol) and 1-bromo-3-chloropropane (4.5 mL, 44 mmol) to give 6.1 g (92%) of (E)-4-chloropropoxy-3'-methoxystilbene as an amber oil. 1NMR (CDCl3): δ7.51-6.74 (m,10H), 4.11 (t,2H), 3.81 (s,3H), 3.72 (t,2H), 2.22 (m,2H).

reactant | 4-hydroxy-3'-methoxystilbene | 22 mmol, 5.0 g | OC1=CC=C(C=C1)C=CC1=CC(=CC=C1)OC | C15H14O2
reactant | 1-bromo-3-chloropropane | 44 mmol, 4.5 mL | BrCCCCl | C3H6BrCl
product | (E)-4-chloropropoxy-3'-methoxystilbene | 6.1 g, 92% | ClCCCOC1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)OC | C18H19ClO2
